US07592358B2
48.1d. 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethyl methanesulfonate
0.62 mL (7.98 mmol) of methanesulfonic acid chloride was added dropwise at RT to a solution of 700 mg (2.00 mmol) of 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethanol and 0.65 mL (7.98 mmol) of pyridine in 20 mL of DCM and the mixture was then stirred overnight at RT. After the addition of another 0.33 mL (3.99 mmol) of pyridine and 0.32 mL (4.12 mmol) of methanesulfonic acid chloride, the reaction mixture was stirred for a further 2 hours at RT in the ultrasound bath. The solution was diluted with 30 mL DCM, and the organic phase was separated off, washed three times with 60 mL of water, and dried over magnesium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography (silica gel, DCM). Yield: 600 mg (70% of theoretical); C21H17ClN2O4S (M=428.889); calc.: molpeak (M+H)+:429/431 (Cl); found: molpeak (M+H)+:429/431 (Cl); Rf value: 0.30 (silica gel, DCM/MeOH 9:1).

reactant | methanesulfonic acid chloride | 7.98 mmol, 0.62 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethanol | 2.00 mmol, 700 mg | ClC1=CC=C(C=C1)C=1N=CC(=NC1)C#CC1=CC=C(OCCO)C=C1 | C20H15ClN2O2
reactant | pyridine | 7.98 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 3.99 mmol, 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic acid chloride | 4.12 mmol, 0.32 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[5-(4-chlorophenyl)pyrazin-2-ylethynyl]phenoxy}ethyl methanesulfonate | CS(=O)(=O)OCCOC1=CC=C(C=C1)C#CC1=NC=C(N=C1)C1=CC=C(C=C1)Cl | C21H17ClN2O4S
